US04172070
To a suitable reactor are introduced 500 parts of WW rosin which is then heated under nitrogen to 220° C. Thereafter, 67.5 parts of technical pentaerythritol (PE) are added. The temperature is next raised to between 270° C. and 275° C., and stirred for one hour, at which time the acid number is found to be equal to 103. A catalyst, namely, 0.25 part of p-touenesulfonic acid is then added to the reaction mixture. The reaction temperature is maintained for a total of 11 hours at 275° C. At the end of this period, esterification had been found to be substantially completed, producing a rosin/PE ester having an acid number equal to 13, an N color, and an 84° C. Ring and Ball softening point.

reactant | rosin | C1=CC=C(C=C1)/C=C/CO[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O | C15H20O6
reactant | pentaerythritol | OCC(CO)(CO)CO | C5H12O4
product | rosin PE | C1=CC=C(C=C1)/C=C/CO[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O.OCC(CO)(CO)CO | InChI=1S/C15H20O6.C5H12O4/c16-9-11-12(17)13(18)14(19)15(21-11)20-8-4-7-10-5-2-1-3-6-10;6-1-5(2-7,3-8)4-9/h1-7,11-19H,8-9H2;6-9H,1-4H2/b7-4+;/t11-,12-,13+,14-,15-;/m1./s1
